US04101517
PREPARATION OF POLY(1,2-BIS(4-HYDROXYPHENYL)ETHANE ISOPHTHALATE
A charge consisting of 167 parts of isophthalic acid and 298 parts of 1,2-bis(acetoxyphenyl)ethane and 0.005 mols potassium carbonate per mol of 1,2-bis(acetoxyphenyl)ethane is placed in a reaction vessel equipped with a stirrer, condenser and receiver. The vessel is evacuated and purged with nitrogen three times. During the reaction a nitrogen blanket is maintained in the reactor. The temperature is raised to about 245° C. and acetic acid distills. The rate of distillation during the initial 67 percent of reaction is 1.82 ml mol-1 min.-1. The distillation rate tapers after 87 parts of acetic acid have distilled in 55 minutes. The temperature rises slowly to 270° C. during the initial stage. Thereupon the vessel is evacuated to a pressure of about 200 torr for about 5 minutes and the pressure is then slowly reduced to about 1 torr while the temperature is increased to about 290° C. When the amperage on the stirrer motor increases by 0.02 to 0.04 amps, the stirrer motor is switched off and the vacuum is released with nitrogen. A total of 112 parts of acetic acid (98 percent of theoretical) is collected. The rate of evolution of acetic acid during the vacuum stage is 1.67 ml mol-1 min.-1. The prepolymer is extruded from the vessel under slight nitrogen pressure and is reduced in a mill to a powder of particle size in the range of from 0.1 to 0.25 mm. The inherent viscosity of the prepolymer is 0.28. The prepolymer is off white in color.

reactant | isophthalic acid | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 1,2-bis(acetoxyphenyl)ethane | C(C)(=O)OC1=C(C=CC=C1)CCC1=C(C=CC=C1)OC(C)=O | C18H18O4
reactant | potassium carbonate | 0.005 mols | C([O-])([O-])=O.[K+].[K+]
product | 1,2-BIS(4-HYDROXYPHENYL)ETHANE ISOPHTHALATE | C(C1=CC(C(=O)O)=CC=C1)(=O)O.OC1=CC=C(C=C1)CCC1=CC=C(C=C1)O | InChI=1S/C14H14O2.C8H6O4/c15-13-7-3-11(4-8-13)1-2-12-5-9-14(16)10-6-12;9-7(10)5-2-1-3-6(4-5)8(11)12/h3-10,15-16H,1-2H2;1-4H,(H,9,10)(H,11,12)
